US07381719B2
Part A: 4-(Phenethylaminomethyl)phenol
Dissolve 4-hydroxybenzaldehyde (1.00 g, 8.12 mmol) in methanol (40.6 mL). Add 3 Å molecular sieves and phenethylamine (1.02 mL, 8.12 mmol). Stir at room temperature for 17 hours. Add NaBH4 (0.341 g, 9.01 mmol). After five hours, filter and concentrate. Purify by 10 g SCX column washing with methanol and eluting with 2.0 M NH3 in methanol to give the title compound as an off white solid: HRMS calcd for C15H18NO 228.1388 (M+H)+, found 228.1387, time 0.74 min, MS TOF ES+ 228.1 (M+H)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=1.4 min, 100% purity.

reactant | 4-hydroxybenzaldehyde | 8.12 mmol, 1.00 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | phenethylamine | 8.12 mmol, 1.02 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | NaBH4 | 9.01 mmol, 0.341 g | [BH4-].[Na+]
solvent | methanol | 40.6 mL | CO | CH4O
product | 4-(Phenethylaminomethyl)phenol | C(CC1=CC=CC=C1)NCC1=CC=C(C=C1)O | C15H17NO
